US07214673B2
2-Isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine hydrochloride
Combine 2-isopropyl-5-(2-nitro-phenylamino)-thiazole-4-carbonitrile (35.1 g, 122 mmol) and IPA (525 mL) stir under N2 and heat to 60° C. to dissolve. Add a solution of SnCl2 (70.0 g, 369 mmol, 3.0 eq.) in aqueous 5M HCl (525 mL) dropwise over 30 min. Heat the reaction mixture at reflux (80–85° C.) for 1 h until complete by HPLC (Zorbax SB C18 25 cm, 60:40/ACN:0.1% TFA in water, 233 nm, 1.0 mL/min). Cooling the reaction to 50° C. Remove most of the solvent in vacuo. Treat the aqueous solid residue (188 g) with IPA (500 mL) and heat to 60–70° C. for a few minutes to form a homogenous slurry. Cool the slurry to rt, then 0–5° C. for 1–2 h. Isolate the product by vacuum filtration and dry in a vacuum oven at 60° C. to afford 45.9 g (128%) of crude product that was heavily contaminated with residual tin. Suspent the crude product in aqueous 1N HCl (2.25 L) and heat to reflux (95° C.) for 1 h, during which time most of the solids dissolve. Cool to rt, isolate the product by vacuum filtration, rinse with aqueous 1N HCl, and dry in a vacuum oven at 70° C. to afford 34.5 g (97%) of the title compound as a yellow/orange solid. Analytical analysis: Sn (9.0%), H2O (1.2%). 1H NMR (300 MHz, DMSO-d6) δ 10.96 (bs, 1H), 10.15 (bs, 1H), 8.94 (bs, 2H), 7.10–6.95 (m, 2H), 6.93–6.82 (m, 2H), 3.10 (dq, 1H, J=6.95 Hz), 1.28 (s, 3H), 1.26 (s, 3H). 13C NMR (75 MHz, DMSO-d6) δ 164.42, 159.24, 158.94, 137.01, 128.58, 127.11, 125.09, 122.87, 120.14, 119.23, 32.41, 21.98(2). IR(KBr) 3301, 3249, 2964, 1653, 1614, 1553, 1509 cm−1. HRMS (ES) M/z calculated for C13H15N4S 259.1017 (M+−Cl), found 259.1010.

reactant | 2-isopropyl-5-(2-nitro-phenylamino)-thiazole-4-carbonitrile | 122 mmol, 35.1 g | C(C)(C)C=1SC(=C(N1)C#N)NC1=C(C=CC=C1)[N+](=O)[O-] | C13H12N4O2S
reactant | SnCl2 | 369 mmol, 70.0 g, 3.0 eq. | Cl[Sn]Cl
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tin | [Sn] | Sn
solvent | HCl | 5M, 525 mL | Cl | ClH
solvent | water | O | H2O
solvent | HCl | 1N, 2.25 L | Cl | ClH
solvent | ACN | C(C)#N | C2H3N
solvent | IPA | 525 mL | CC(C)O | C3H8O
product | 2-Isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-ylamine hydrochloride | 34.5 g, 97% | Cl.C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N | InChI=1S/C13H14N4S.ClH/c1-7(2)12-17-10-11(14)15-8-5-3-4-6-9(8)16-13(10)18-12;/h3-7,16H,1-2H3,(H2,14,15);1H
